US07217409B2
(b) 1-Phenyl-2,5,8,11,14,17-hexaoxanonadecan-19-ol
To a stirred mixture of hexaethylene glycol (10 g), benzyl bromide (4.53 mL) and diisopropyl ether (25 mL) was added tetrahydrofuran (10 mL). The mixture was cooled to 15–20° C. and aqueous sodium hydroxide (10.8M, 4.92 mL) was added slowly maintaining the temperature at 15–20° C. during addition. The resulting mixture was allowed to warm to 20° C. and stirred for a further 17 hours. Water (50 mL) was then added to the reaction mixture, which was then washed with diisopropyl ether (25 mL). Sodium chloride (10 g) was added to the aqueous phase which was extracted with ethyl acetate (3×25 mL). The combined ethyl acetate extracts were dried (Na2SO4) and concentrated in vacuo to give the title compound as a mobile oil (6.29 g). GC retention time 14.2 mins

reactant | hexaethylene glycol | 10 g | C(COCCOCCOCCOCCOCCO)O | C12H26O7
reactant | benzyl bromide | 4.53 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | diisopropyl ether | 25 mL | C(C)(C)OC(C)C | C6H14O
reactant | sodium hydroxide | 10.8M, 4.92 mL | [OH-].[Na+]
solvent | Water | 50 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-Phenyl-2,5,8,11,14,17-hexaoxanonadecan-19-ol | 6.29 g | C1(=CC=CC=C1)COCCOCCOCCOCCOCCOCCO | C19H32O7
